US07145012B2
Preparation of Intermediate 1-(2-Chloro-phenyl)-5-(4-chloro-phenyl)-4-methyl-1H-pyrazole-3-carboxylic acid ethyl ester (I-4a)
A solution of 4-chloropropiophenone (16.9 g, 100 mmol) in diethylether (20 ml) was added to a solution of LiN(TMS)2 (1 M solution in THF, 100 ml, 100 mmol) in diethylether (400 ml) at −78° C. The reaction mixture was stirred at −78 C for 0.75 hour, then diethyl oxalate (15 ml, 110 mmol) was added dropwise. The reaction mixture was slowly allowed to warm to room temperature and stir for 17 hours. The diethyl ether was removed under vacuum and the residue was diluted with diethyl ether. A light yellow solid precipitated out of solution and was collected by filtration (9.9 g, 36%). This solid, which was used without further purification, was dissolved in isopropyl alcohol (200 ml), and 2-chlorophenylhydrazine (5.9 g, 36.1 mmol) and conc. H2SO4 (0.4 ml) was added. The reaction mixture was heated under reflux for 17 hours. After cooling to room temperature, NaHCO3 (1 g) was added. The reaction mixture was concentrated under vacuum. The residue was diluted with EtOAc and the organic solution was washed with sat'd aq NaHCO3 and sat'd aq NaCl, dried, filtered, and concentrated in vacuo. The residue was triturated with cyclohexane to give I-4a as an off-white solid (9.5 g, 25%): +APCI MS (M+1) 375.0.

reactant | 4-chloropropiophenone | 100 mmol, 16.9 g | CCC(=O)C1=CC=C(C=C1)Cl | C9H9ClO
reactant | LiN(TMS)2 | 100 mmol, 1 M, 100 ml | [Li]N([Si](C)(C)C)[Si](C)(C)C
reactant | diethyl oxalate | 110 mmol, 15 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 2-chlorophenylhydrazine | 36.1 mmol, 5.9 g | ClC1=C(C=CC=C1)NN | C6H7ClN2
reactant | H2SO4 | 0.4 ml | OS(=O)(=O)O | H2O4S
reactant | NaHCO3 | 1 g | C(=O)(O)[O-].[Na+]
solvent | diethylether | 20 ml | C(C)OCC | C4H10O
solvent | diethylether | 400 ml | C(C)OCC | C4H10O
product | 1-(2-Chloro-phenyl)-5-(4-chloro-phenyl)-4-methyl-1H-pyrazole-3-carboxylic acid ethyl ester | 9.5 g, 25% | C(C)OC(=O)C1=NN(C(=C1C)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C19H16Cl2N2O2
